US08017602B2
Step iv) 3-(3-(1-Ethyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoic acid
A mixture of tert-butyl 3-(3-(1-ethyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoate [Example 4, Step iii)] (382 mg), DCM (5 mL) and TFA (5 mL) was stirred at 25° C. for 30 min and concentrated under vacuum to give the subtitled compound as a gum (625 mg). 1H NMR (300 MHz, CDCl3) δ 7.92 (s, 1H), 7.75 (s, 1H), 7.48 (d, J=7.6 Hz, 1H), 7.37 (t, J=7.6 Hz, 1H), 7.24 (s, 1H), 4.53 (q, J=7.4 Hz, 2H), 3.76 (t, J=5.9 Hz, 2H), 3.76 (t, J=6.0 Hz, 2H), 2.93 (t, J=6.0 Hz, 2H), 2.63 (t, J=5.9 Hz, 2H), 1.67 (t, J=7.4 Hz, 3H).

reactant | tert-butyl 3-(3-(1-ethyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoate | C(C)N1N=NC(=C1)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C19H27N3O3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-(1-Ethyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoic acid | 625 mg | C(C)N1N=NC(=C1)C=1C=C(CCOCCC(=O)O)C=CC1 | C15H19N3O3
